US07067517B2
Methyl-phenyl-carbamic acid pyridin-3-yl ester
The title product was prepared from 3-hydroxypyridine and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC. (94%, colourless oil).

reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid pyridin-3-yl ester | N1=CC(=CC=C1)OC(N(C1=CC=CC=C1)C)=O | C13H12N2O2
